* Subcircuit mux
.subckt mux net-_u1-pad1_ net-_u1-pad2_ net-_u1-pad3_ net-_u1-pad4_ net-_u1-pad5_ net-_u1-pad6_ net-_u1-pad7_ net-_u1-pad8_ 
* c:\users\shanthipriya\desktop\madeeasy\fossee\esim\library\subcircuitlibrary\mux\mux.cir
.include half_adder.sub
x1 net-_x1-pad1_ net-_u2-pad3_ net-_u1-pad6_ net-_u1-pad5_ half_adder
x2 net-_u4-pad3_ net-_u3-pad3_ net-_u1-pad7_ net-_x1-pad1_ half_adder
* u2  net-_u1-pad3_ net-_u1-pad1_ net-_u2-pad3_ d_and
* u3  net-_u1-pad4_ net-_u1-pad1_ net-_u3-pad3_ d_and
* u4  net-_u1-pad3_ net-_u1-pad2_ net-_u4-pad3_ d_and
* u5  net-_u1-pad4_ net-_u1-pad2_ net-_u1-pad8_ d_and
a1 [net-_u1-pad3_ net-_u1-pad1_ ] net-_u2-pad3_ u2
a2 [net-_u1-pad4_ net-_u1-pad1_ ] net-_u3-pad3_ u3
a3 [net-_u1-pad3_ net-_u1-pad2_ ] net-_u4-pad3_ u4
a4 [net-_u1-pad4_ net-_u1-pad2_ ] net-_u1-pad8_ u5
* Schematic Name:                             d_and, NgSpice Name: d_and
.model u2 d_and(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 )
* Schematic Name:                             d_and, NgSpice Name: d_and
.model u3 d_and(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 )
* Schematic Name:                             d_and, NgSpice Name: d_and
.model u4 d_and(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 )
* Schematic Name:                             d_and, NgSpice Name: d_and
.model u5 d_and(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 )
* Control Statements

.ends mux