* c:\users\shanthipriya\esim-workspace\4_bit_fa\4_bit_fa.cir

.include 74AC283.sub
* u2  c0 plot_v1
* u3  a1 plot_v1
* u4  a2 plot_v1
* u5  a3 plot_v1
* u7  a4 plot_v1
* u1  b1 plot_v1
* u6  b4 plot_v1
* u8  b3 plot_v1
* u9  b2 plot_v1
* u10  s1 plot_v1
* u11  s2 plot_v1
* u12  s3 plot_v1
* u13  s4 plot_v1
* u14  c_out plot_v1
x1 a1 b1 c0 a2 b2 a3 b3 a4 b4 s1 s2 s3 s4 c_out ? ? 74AC283
v1  c0 gnd pulse(0 5 0 1n 1n 250u 5120u)
v2  a1 gnd pulse(0 5 0 1n 1n 10u 20u)
v3  a2 gnd pulse(0 5 0 1n 1n 20u 40u)
v4  a3 gnd pulse(0 5 0 1n 1n 40u 80u)
v5  a4 gnd pulse(0 5 0 1n 1n 80u 160u)
v6  b1 gnd pulse(0 5 0 1n 1n 160u 320u)
v7  b2 gnd pulse(0 5 0 1n 1n 320u 640u)
v8  b3 gnd pulse(0 5 0 1n 1n 640u 1280u)
v9  b4 gnd pulse(0 5 0 1n 1n 1280u 2560u)
.tran 0.01e-06 2e-03 0e-00

* Control Statements 
.control
run
print allv > plot_data_v.txt
print alli > plot_data_i.txt
plot v(c0)+6v(a1)+12 v(a2)+18v(a3)+24 v(a4)+30 v(b1)+36 v(b2)+42 v(b3)+48v(b4)+54 v(s1)+60 v(s2)+66 v(s3)+72v(s4)+78v(c_out)
.endc
.end
