* eeschema netlist version 1.1 (spice format) creation date: wed jun 24 11:31:48 2015

* u2  1 4 3 d_xor
* u3  1 4 2 d_and
* u1  1 4 3 2 port
a1 [1 4 ] 3 u2
a2 [1 4 ] 2 u3
* Schematic Name: d_xor, NgSpice Name: d_xor
.model u2 d_xor(fall_delay=1.0e-9 input_load=1.0e-12 rise_delay=1.0e-9 ) 
* Schematic Name: d_and, NgSpice Name: d_and
.model u3 d_and(fall_delay=1.0e-9 input_load=1.0e-12 rise_delay=1.0e-9 ) 
.ac lin 0 0Hz 0Hz

* Control Statements 
.control
run
print allv > plot_data_v.txt
print alli > plot_data_i.txt
.endc
.end
