* Subcircuit 4d_375
.subckt 4d_375 net-_u1-pad1_ net-_u1-pad2_ net-_u1-pad3_ net-_u1-pad4_ 
* c:\users\shanthipriya\desktop\madeeasy\fossee\esim\library\subcircuitlibrary\4d_375\4d_375.cir
* u2  net-_u1-pad2_ net-_u2-pad2_ d_inverter
* u3  net-_u1-pad1_ net-_u1-pad2_ net-_u3-pad3_ d_and
* u4  net-_u2-pad2_ net-_u1-pad4_ net-_u4-pad3_ d_and
* u5  net-_u3-pad3_ net-_u4-pad3_ net-_u1-pad3_ d_nor
* u6  net-_u1-pad3_ net-_u1-pad4_ d_inverter
a1 net-_u1-pad2_ net-_u2-pad2_ u2
a2 [net-_u1-pad1_ net-_u1-pad2_ ] net-_u3-pad3_ u3
a3 [net-_u2-pad2_ net-_u1-pad4_ ] net-_u4-pad3_ u4
a4 [net-_u3-pad3_ net-_u4-pad3_ ] net-_u1-pad3_ u5
a5 net-_u1-pad3_ net-_u1-pad4_ u6
* Schematic Name:                             d_inverter, NgSpice Name: d_inverter
.model u2 d_inverter(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 )
* Schematic Name:                             d_and, NgSpice Name: d_and
.model u3 d_and(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 )
* Schematic Name:                             d_and, NgSpice Name: d_and
.model u4 d_and(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 )
* Schematic Name:                             d_nor, NgSpice Name: d_nor
.model u5 d_nor(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 )
* Schematic Name:                             d_inverter, NgSpice Name: d_inverter
.model u6 d_inverter(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 )
* Control Statements

.ends 4d_375